US06949579B2
N-[5-nitro-1H-indazol-3-yl]butanamide
0.58 cm3 of butyryl chloride is added to 1 g of 5-nitro-1H-indazole-3-amine, prepared as described in, SU 742430 (CA: 94 :65676) in 25 cm3 of pyridine, and cooled to about 5° C. The reaction medium is allowed to return to about 19° C. over 12 hours. The insoluble material present is filtered off and the filtrate is then evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 15 cm3 of ethyl acetate and 15 cm3 of distilled water. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume) and collecting 20 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 50° C.), 480 mg of N-[5-nitro-1H-indazol-3-yl]butanamide are thus obtained in the form of a white solid.

reactant | butyryl chloride | 0.58 cm3 | C(CCC)(=O)Cl | C4H7ClO
reactant | 5-nitro-1H-indazole-3-amine | 1 g | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)N | C7H6N4O2
solvent | pyridine | 25 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[5-nitro-1H-indazol-3-yl]butanamide | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)NC(CCC)=O | C11H12N4O3
